US08530709B2
Typical compounds conforming to the above general formula are CH3Cl, CH2Cl2, CHCl3, CCl4, CH3F, CH2F2, CHF2Cl, and the like. Addition of such compounds to hexafluoropropene thermally is described in J. Fluorine Chemistry 1982, 21, 253-259. For example, CH2Cl2 addition to CF3CF═CF2 at 280° C. is reported to give 85% yield of CHCl2CF2CHFCF3.

reactant | CH3Cl | CCl | CH3Cl
reactant | CH3F | CF | CH3F
reactant | CH2F2 | C(F)F | CH2F2
reactant | CHF2Cl | C(F)(F)Cl | CHClF2
reactant | hexafluoropropene | FC(C(=C(F)F)F)(F)F | C3F6
reactant | Fluorine | FF | F2
reactant | CF3CF═CF2 | C(F)(F)(F)C(F)=C(F)F | C3F6
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | CHCl2CF2CHFCF3 | 85% yield | C(Cl)(Cl)C(F)(F)C(F)C(F)(F)F | C4H2Cl2F6
